US04579853
2-Trichloromethyl-imidazo[4,5-b]pyridine (21.5 g) is added, in small portions, to 34% strength ammonia (250 ml), which is stirred vigorously and kept at about 10° C. After the addition, the reaction mixture is stirred for about one hour, the temperature being allowed to rise to the ambient temperature (20° to 25° C.). The reaction mixture is filtered over silica supercel and the filtrate is acidified to pH=6 with hydrochloric acid (200 ml) of density 1.19, the temperature being kept below 10° C. 2-Cyanoimidazo[4,5-b]pyridine (8 g in total) of melting point of about 200° C. is obtained by filtering off the precipitate, extracting the mother liquors with ethyl acetate and concentrating the extract. Purity: about 80%.

reactant | 2-Trichloromethyl-imidazo[4,5-b]pyridine | 21.5 g | ClC(C=1NC=2C(=NC=CC2)N1)(Cl)Cl | C7H4Cl3N3
reactant | ammonia | 250 ml | N | H3N
product | 2-Cyanoimidazo[4,5-b]pyridine | 8 g | C(#N)C=1NC=2C(=NC=CC2)N1 | C7H4N4
